US04895863
A mixture of 1.63 g (0.0062 mole) of (7-methoxy-imidazo [2,1-b]benzothiazol-2-yl)-cyclopropyl methanol and 4.8 g (0.055 mole) of manganese dioxide was stirred under reflux in 300 ml of chloroform for 1 hour. The mixture was filtered hot and evaporated to dryness. Trituration with diethyl ether yielded 1.45 g (89% yield) of (7-methoxy-imidazo[2,1-b]benzothiazol-2-yl)-cyclopropyl methanone as a colorless solid melting at 213° as 214° C. (EtOH).

reactant | (7-methoxy-imidazo [2,1-b]benzothiazol-2-yl)-cyclopropyl methanol | 0.0062 mole, 1.63 g | COC1=CC2=C(N3C(S2)=NC(=C3)C(O)C3CC3)C=C1 | C14H14N2O2S
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | EtOH | CCO | C2H6O
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 0.055 mole, 4.8 g | [O-2].[O-2].[Mn+4]
product | (7-methoxy-imidazo[2,1-b]benzothiazol-2-yl)-cyclopropyl methanone | 1.45 g, 89% yield | COC1=CC2=C(N3C(S2)=NC(=C3)C(=O)C3CC3)C=C1 | C14H12N2O2S
